US06090813
Ammonium formate (1.88 g) was added to a mixture of 1-benzyl-4-[(1-[4-pyrimidinyl]-4-piperidyl)carbonyl]piperazine (2.73 g) and 10% palladium on carbon catalyst (0.55 g) in methanol (70 ml) under an atmosphere of argon. The mixture was stirred at reflux temperature for 1 hour. The cooled mixture was filtered through diatomaceous earth and the filtercake was well washed with methanol. The filtrate and washings were combined and evaporated. The residual oil was suspended in saturated aqueous sodium carbonate solution (30 ml) and the mixture was extracted with dichloromethane (4×100 ml). The dichloromethane extracts were combined, dried (Na2SO4) and evaporated to give 1-[(1-[4-pyrimidinyl]-4-piperidyl)carbonyl]piperazine (1.94 g, 94%) as an off-white solid;

reactant | Ammonium formate | 1.88 g | C(=O)[O-].[NH4+]
reactant | 1-benzyl-4-[(1-[4-pyrimidinyl]-4-piperidyl)carbonyl]piperazine | 2.73 g | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C1CCN(CC1)C1=NC=NC=C1 | C21H27N5O
catalyst | palladium on carbon | 0.55 g | [Pd] | Pd
solvent | methanol | 70 ml | CO | CH4O
product | 1-[(1-[4-pyrimidinyl]-4-piperidyl)carbonyl]piperazine | 1.94 g, 94% | N1=CN=C(C=C1)N1CCC(CC1)C(=O)N1CCNCC1 | C14H21N5O
